US04136097
Bis(5-chlorosalicylaldehyde) Copper(II):
To a solution of 1.61g of copper(II) nitrate trihydrate and 1.25g of sodium acetate in 25 ml of deionized water is added a warm solution of 2.08g of 5-chlorosalicylaldehyde in 25 ml of 95% ethanol. The mixture is stirred at 45°-50° C for 15 minutes, cooled, and filtered. The yellow-green solid which results, Bis(5-chlorosalicylaldehyde) copper(II), is rinsed with water and 95% ethanol and dried in vacuo.

reactant | copper(II) nitrate trihydrate | 1.61g | O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
reactant | sodium acetate | 1.25g | C(C)(=O)[O-].[Na+]
reactant | 5-chlorosalicylaldehyde | 2.08g | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | Bis(5-chlorosalicylaldehyde) Copper(II) | [Cu+2].ClC1=CC=C(C(C=O)=C1)O.ClC1=CC=C(C(C=O)=C1)O | InChI=1S/2C7H5ClO2.Cu/c2*8-6-1-2-7(10)5(3-6)4-9;/h2*1-4,10H;/q;;+2
